US07910592B2
Step A: 4-tert-butyl-2-iodoaniline
A solution of commercially available 4-tert-butylaniline (2.00 g, 13.4 mmol) in MeOH (10 mL) was added to a mixture of silver sulfate (4.17 g, 13.4 mmol) and iodine (3.39 g, 13.4 mmol) in MeOH (30 mL). The mixture was stirred at room temperature for 4 h. The mixture was filtered. The filtrate was concentrated. The title compound was obtained after flash chromatography using EtOAc:hexane/2:8 as the eluant. 1H NMR (CDCl3, 500 MHz): B7.65 (d, J=2. Hz, 1H), 7.20 (dd, J=8.5, 2.5 Hz, 1H), 6.75 (d, J=8.5 Hz, 1H), 1.30 (s, 9H).

reactant | 4-tert-butylaniline | 13.4 mmol, 2.00 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | iodine | 13.4 mmol, 3.39 g | II | I2
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
catalyst | silver sulfate | 13.4 mmol, 4.17 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-tert-butyl-2-iodoaniline | C(C)(C)(C)C1=CC(=C(N)C=C1)I | C10H14IN
